US06335349B1
N-Benzyloxycarbonyl-α-amino-α-methylglutarimide (2.3 g, 8.3 mmol) was dissolved in ethanol (200 mL) with gentle heat and the resulting solution allowed to cool to room temperature. To this solution was added 4N hydrochloric acid (3 mL) followed by 10% Pd/C (0.4 g). The mixture was hydrogenated in a Parr apparatus under 50 psi of hydropen for 3 hours. To the mixture was added water (50 mL) to dissolve the product. This mixture was filtered through a Celite pad which was washed with water (50 mL). The filtrate was concentrated in vacuo to afford a solid residue. The solid was slurried in ethanol (20 mL) for 30 min. The slurry was filtered to afford 1.38 g (93%) of α-amino-α-methylglutarimide hydrochloride as a white solid: 1H NMR (DMSO-d6) δ11.25 (s, 1H), 8.92 (s, 3H), 2.84-2.51 (m, 2H), 2.35-2.09 (m, 2H), 1.53 (s, 3H); HPLC, Waters Nova-Pak C18 column, 4 micron, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4(aq), 1.03 min (94.6%).

reactant | N-Benzyloxycarbonyl-α-amino-α-methylglutarimide | 8.3 mmol, 2.3 g | C(C1=CC=CC=C1)OC(=O)N1C(C(CCC1=O)(C)N)=O | C14H16N2O4
reactant | hydrochloric acid | 4N, 3 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | α-amino-α-methylglutarimide hydrochloride | 1.38 g, 93% | Cl.NC1(C(=O)NC(CC1)=O)C | InChI=1S/C6H10N2O2.ClH/c1-6(7)3-2-4(9)8-5(6)10;/h2-3,7H2,1H3,(H,8,9,10);1H
